US07294628B2
A) tert-Butyl-4-(3-chlorophenyl)-4-cyanopiperidine-1-carboxylate.
A suspension of 15.8 g of sodium hydride of a concentration of 60% in oil in 400 ml of DMSO is admixed dropwise at AT under an inert atmosphere with a solution of 30 g of 3-chlorophenylacetonitrile in 200 ml of THF and then with a solution of 45.5 g of tert-butyl bis(2-chloroethyl)carbamate in 200 ml of DMSO and is heated at 60° C. overnight. The reaction mixture is poured into an ice/water mixture and extracted with ether, the organic phase is washed with water and dried over Na2SO4 and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, eluting with DCM. This gives 33 g of the expected product.

reactant | sodium hydride | 15.8 g | [H-].[Na+]
reactant | 3-chlorophenylacetonitrile | 30 g | ClC=1C=C(C=CC1)CC#N | C8H6ClN
reactant | tert-butyl bis(2-chloroethyl)carbamate | 45.5 g | ClCCN(C(OC(C)(C)C)=O)CCCl | C9H17Cl2NO2
solvent | DMSO | 400 ml | CS(=O)C | C2H6OS
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | tert-Butyl-4-(3-chlorophenyl)-4-cyanopiperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)C1=CC(=CC=C1)Cl | C17H21ClN2O2
